* E:\Universiteit\Master\7 Q2 - 2021\EE4109-Structured-Electronic-Design\cir\Biasing\BiasingStep1.asc
V1 N009 0 SINE(0 {V_in} 30meg 0 0 0) AC 1 0
E1 N005 0 N009 0 {L_A}
C1 N006 N005 {C_A}
R1 N001 N006 {Rphz}
I1 N014 0 {ID_DP*2}
V2 N010 0 900m
V3 N013 0 900m
I2 0 N011 {ID_DP}
M1 N010 N001 N014 substrateGround C18nmos l={L_DP} w={W_DP}
M2 N011 N013 N014 substrateGround C18nmos l={L_DP} w={W_DP}
M3 N002 N012 0 substrateGround C18nmos l={L_N} w={W_N}
M4 N003 N004 N002 N003 C18pmos l={L_P} w={W_P}
V4 N004 N011 300m
V5 N011 N012 300m
V6 N003 0 1.8
C2 N002 N001 {C_F}
R2 N002 N001 500Meg
R3 N007 N002 {R_L}
C3 Out N008 1u
R4 Out 0 {R_L}
V7 0 substrateGround 20m
L1 N008 N007 {Lphz}
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\tomsa\Documents\LTspiceXVII\lib\cmp\standard.mos
.param L_A=0.5 C_A=10e-12 C_F=5e-12 R_L=50
.param Rphz=13.81 Lphz=0.4u
.param L_DP=300n W_DP=800u ID_DP=3.6m
.param L_N=180n L_P=180n W_N=100u W_P=350u
.op
.lib 'E:\Universiteit\Master\7 Q2 - 2021\EE4109-Structured-Electronic-Design\cir\CMOS18TT.lib'
.lib 'C:\Program Files\LTC\LTspiceXVII\lib\cmp\log018.l' TT
.param V_in=0.16
;tran 800n
;ac dec 20 1k 10G
.noise V(out) V1 dec 20 10k 30Meg
.backanno
.end
